US04496748
0.1 mole of aluminum isopropoxide in 500 ml of isopropanol is placed in a three-necked flask provided with a stirrer and a Vigreux column. The mixture is refluxed. A 25% by weight solution of 2-(2-propenyl)-cyclododecanone in isopropanol is added dropwise to the boiling reaction mixture, over a period of 12 hours. The acetone produced, which serves at the same time as indicator for the progress of the reaction, is collected at the top of the column. After approximately a further hour of refluxing, the reaction is complete. After the isopropanol has been drawn off, the reaction mixture is hydrolyzed with 6N hydrochloric acid. Extraction is then carried out with 200 ml of toluene and the organic phase is worked up by distillation. Finally, 2-(2-propenyl)-cyclododecanol is obtained as a colorless liquid in a yield of 95% of the theoretical yield at a boiling range of from 172° to 175° C. at 12 torr.

reactant | aluminum isopropoxide | 0.1 mole | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 2-(2-propenyl)-cyclododecanone | C(C=C)C1C(CCCCCCCCCC1)=O | C15H26O
reactant | acetone | CC(=O)C | C3H6O
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | 2-(2-propenyl)-cyclododecanol | yield of 95% | C(C=C)C1C(CCCCCCCCCC1)O | C15H28O
